US05290485
(ii) TCNQ/perylene complex
Then 1 g of equimolar mixture of TCNQ and perylene was dissolved in 250 ml of chloroform while slightly heatig the solvent. After allowing to cool, the solution was filtered through Teflon membrane filter with a pore size of 1 μm, and the filtrate was slowly cooled from the room temperature to -20 ° C. at a rate of about 1° C./hr to obtain several purple-black crystals in the form of an elongated plate (the largest one sized 5 cm length, ×1 mm width×400 μm thickness). After collecting the crystals by filtration, the crystals were washed with ether and was dried in the air. The crystals were confirmed to be single crystals by observing them with a polarizing microscope under closed nicols. [Processing of the charge-transfer crystals into third-order nonlinear optical element]

reactant | TCNQ | C1=CC(=C(C#N)C#N)C=CC1=C(C#N)C#N | C12H4N4
reactant | perylene | C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45 | C20H12
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | TCNQ perylene | C1=CC(=C(C#N)C#N)C=CC1=C(C#N)C#N.C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45 | InChI=1S/C20H12.C12H4N4/c1-5-13-6-2-11-17-18-12-4-8-14-7-3-10-16(20(14)18)15(9-1)19(13)17;13-5-11(6-14)9-1-2-10(4-3-9)12(7-15)8-16/h1-12H;1-4H
